US06982348B2
To a solution of 4-trifluoromethylacetophenone (57.8 g, 0.307 mol) and ethanol (1 ml) in ethyl carbonate (300 ml) was added sodium hydride (24.5 g, 60% in oil, 0.63 mol) by small portions. Because heat was generated gradually, the reaction solution was ice-cooled and thereafter stirred at room temperature for 2 hrs. 6N Hydrochloric acid was added thereto to stop the reaction. The mixture was diluted with water (300 ml) and extracted with ethyl acetate (200 ml×2). The extract was washed with water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=50:1-5:1) to give ethyl 3-oxo-3-(4-trifluoromethylphenyl)propionate (71.2 g, 89%).

reactant | 4-trifluoromethylacetophenone | 0.307 mol, 57.8 g | CC(=O)C1=CC=C(C=C1)C(F)(F)F | C9H7F3O
reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | sodium hydride | 0.63 mol, 24.5 g | [H-].[Na+]
reactant | Hydrochloric acid | 6N | Cl | ClH
reactant | ethyl carbonate | 300 ml | C(OCC)([O-])=O
solvent | water | 300 ml | O | H2O
product | ethyl 3-oxo-3-(4-trifluoromethylphenyl)propionate | 71.2 g, 89% | O=C(CC(=O)OCC)C1=CC=C(C=C1)C(F)(F)F | C12H11F3O3
